US06602895B2
1-[(4-Methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-1H-pyrazole-5-(2-furyl)pyrazole.
1-(4-Methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-pyrazole-5-carboxylic acid. To a solution of 1-[(4-methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-5-(2-furyl)pyrazole (0.68 g, 2.04 mmol) in 4:4:6 carbon tetrachloride/acetonitrile/water was added sodium periodate (1.96 g, 9.2 mmol) and ruthenium (III) chloride monohydrate (42 mg, 0.20 mmol). The resulting biphasic reaction was stirred vigorously at ambient temperature for 24 h. The reaction was quenched with 10% aq HCl and diluted with ethyl acetate. The organics were washed with brine, dried (MgSO4), filtered through a pad of Celite and concentrated. The residue was dissolved in 1:1 hexanes/ethyl acetate and extracted with sat'd aq Na2CO3 (2 times). The combined aqueous extracts were acidified and extracted with ethyl acetate. The ethyl acetate extracts were washed with brine, dried (MgSO4) and concentrated to afford 0.42 g (67%) of the title compound as a solid. LRMS (ES−): 310.0 (M−H)−.

reactant | 3-(trifluoromethyl)-4-cyano-pyrazole-5-carboxylic acid | FC(C1=NNC(=C1C#N)C(=O)O)(F)F | C6H2F3N3O2
reactant | 1-[(4-methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-5-(2-furyl)pyrazole | 2.04 mmol, 0.68 g | COC1=CC=C(C=C1)N1N=C(C(=C1C=1OC=CC1)C#N)C(F)(F)F | C16H10F3N3O2
reactant | carbon tetrachloride acetonitrile water | C(Cl)(Cl)(Cl)Cl.C(C)#N.O
reactant | sodium periodate | 9.2 mmol, 1.96 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium (III) chloride monohydrate | 0.20 mmol, 42 mg | O.[Ru](Cl)(Cl)Cl
product | 1-[(4-Methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-1H-pyrazole 5-(2-furyl)pyrazole | 0.42 g, 67% | COC1=CC=C(C=C1)N1N=C(C(=C1)C#N)C(F)(F)F.O1C(=CC=C1)C1=CC=NN1 | InChI=1S/C12H8F3N3O.C7H6N2O/c1-19-10-4-2-9(3-5-10)18-7-8(6-16)11(17-18)12(13,14)15;1-2-7(10-5-1)6-3-4-8-9-6/h2-5,7H,1H3;1-5H,(H,8,9)
